US04548926
N-(2-Benzyloxycarbonyl-1,2,3,4-tetrahydro-β-carbolin-3-ylcarbonyl)-L-histidyl-L-leucinal(Compound No. 7)
The procedure described in Example 1(a) was repeated, but using 125 mg. (0.25 mmole) of N-(2-benzyloxycarbonyl-1,2,3,4-tetrahydro-β-carbolin-3-ylcarbonyl)-L-histidine hydrazide. There were obtained 120 mg. of N-(2-benzyloxycarbonyl-1,2,3,4-tetrahydro-β-carbolin-3-ylcarbonyl)-L-histidyl-L-leucinal semicarbazone. This product was then treated in the same way as in Example 1(b) by partition chromatography using Sephadex G-25, to give 67 mg. of the desired compound as a white powdery solid, melting at 126°-130° C.; [α]22 +21.6° (C`0.5, methanol).

reactant | N-(2-benzyloxycarbonyl-1,2,3,4-tetrahydro-β-carbolin-3-ylcarbonyl)-L-histidine hydrazide | 0.25 mmole | C(C1=CC=CC=C1)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1C(=O)N(N)C([C@@H](N)CC1=CNC=N1)=O | C26H27N7O4
reactant | N-(2-benzyloxycarbonyl-1,2,3,4-tetrahydro-β-carbolin-3-ylcarbonyl)-L-histidyl-L-leucinal semicarbazone | C(C1=CC=CC=C1)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=NNC(=O)N | C33H39N9O5
product | N-(2-Benzyloxycarbonyl-1,2,3,4-tetrahydro-β-carbolin-3-ylcarbonyl)-L-histidyl-L-leucinal | C(C1=CC=CC=C1)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=O | C32H36N6O5
